US04551552
Into a Parr hydrogenation flask were placed 0.35 g of 5% Pt/C, 1.9 g of 1-adamantyl methyl ketoxime, 230 ml of ethanol and 2.0 ml of conc. hydrochloric acid. The flask was purged with hydrogen and then the hydrogenation reaction was initiated. Pressure was set at 34 psia (234 KPa) at ambient temperature and the reaction conducted overnight. The catalyst was removed by filtration and washed with 50 ml ethanol. The combined ethanol solution was distilled to dryness under vacuum. The remaining white solid was dissolved in 70 ml of water, and extracted twice with 50 ml ether. The ether layer was discarded. The aqueous layer was basified to pH 10-13 with sodium hydroxide and extracted twice with 100 ml of ether. The ether layer was dried over potassium hydroxide and magnesium sulfate which was removed by filtration. The dried ether layer was treated with hydrogen chloride gas and rimantadine hydrochloride precipitated. The solid was collected by filtration and dried to give 1.6 g of rimantadine hydrochloride (75% yield).

reactant | 1-adamantyl methyl ketoxime | 1.9 g | CC(=NO)C12CC3CC(CC(C1)C3)C2 | C12H19NO
reactant | hydrochloric acid | 2.0 ml | Cl | ClH
catalyst | Pt/C | 0.35 g | [Pt] | Pt
solvent | ethanol | 230 ml | C(C)O | C2H6O
product | rimantadine hydrochloride | 1.6 g, 75% yield | CC(C12CC3CC(C1)CC(C3)C2)N.Cl | InChI=1S/C12H21N.ClH/c1-8(13)12-5-9-2-10(6-12)4-11(3-9)7-12;/h8-11H,2-7,13H2,1H3;1H
